### PR TITLE
[Merged by Bors] - chore: simplify YoungDiagram.coe_bot and address porting note

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by madvorak — APPROVED** [review]

File: Mathlib/Combinatorics/Young/YoungDiagram.lean [hunk 1]
```diff
@@ -152,19 +152,14 @@ instance : OrderBot YoungDiagram where
...
-      simp only [cells_bot, Finset.coe_empty, Set.mem_empty_iff_false] at h
-  · simp only [cells_bot, Finset.coe_empty, Set.empty_subset]
-
 @[simp]
 theorem not_mem_bot (x : ℕ × ℕ) : x ∉ (⊥ : YoungDiagram) :=
   Finset.not_mem_empty x
 
+@[norm_cast]
+theorem coe_bot : (⊥ : YoungDiagram) = (∅ : Set (ℕ × ℕ)) := by
+  ext; simp
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Young/YoungDiagram.lean:161]: Is this not `rfl`?

Comment (Ruben-VandeVelde) [reply Mathlib/Combinatorics/Young/YoungDiagram.lean:161]: No, `Finset.coe_eq_empty` is not either

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
